US09290490B2
A solution of ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)carbonyl]cyclohexanecarboxylate (518 mg, 1.49 mmol) in anhydrous THF (16 ml) was treated dropwise over 20 min with cyclopropylmagnesium bromide (1.49 mmol, 0.5 M in tetrahydrofuran, 2.99 mL) at 0° C. under a nitrogen atmosphere. After stirring 1 h at room temperature, additional cyclopropylmagnesium bromide (2.23 mmol, 0.5 M in tetrahydrofuran, 4.48 mL) was added dropwise over 20 min at 0° C. and then the mixture was allowed to reach room temperature. After 4 h the mixture was diluted with saturated ammonium chloride and ethyl acetate, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (0% to 20% EtOAc in hexanes) to afford racemic ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)(cyclopropyl)hydroxymethyl]cyclohexanecarboxylate as a white solid. Two enantiomers were separated by chiral super critical fluid chromatography (Chiral Technology AS, 2.1×25 cm, 10 uM, 45/55 MeOH/CO2, Flow Rate: 70 mL/min, 14 min run time, WL: 220 nm) Elution was observed at 7.91 min and 10.78 min. Pooled fractions of each peak were concentrated under reduced pressure.

reactant | ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)carbonyl]cyclohexanecarboxylate | 1.49 mmol, 518 mg | BrC1=CN=C(S1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H16BrNO3S
reactant | cyclopropylmagnesium bromide | 1.49 mmol, 0.5 M, 2.99 mL | C1(CC1)[Mg]Br
reactant | cyclopropylmagnesium bromide | 2.23 mmol, 0.5 M, 4.48 mL | C1(CC1)[Mg]Br
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | racemic ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)(cyclopropyl)hydroxymethyl]cyclohexanecarboxylate | BrC1=CN=C(S1)C([C@@H]1CC[C@H](CC1)C(=O)OCC)(O)C1CC1 | C16H22BrNO3S
